Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Levaquin
 
Attending: ___.
 
Chief Complaint:
cough
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___, history of ___ disease, advanced dementia,
esophageal dysmotility and past aspirations w/ PEG for feeding,
presenting from home with sons concerned for cough and lethargy.

History as available is provided by son. Pt unable to provide Hx
given advanced dementia.

Re cough: no hypoxia at home, as son checks regularly. Some 
cough
without production. C/f PNA on son's part. He also felt she was
lower energy and less interactive. No fevers registered. No
obvious aspiration event. In the past he has suctioned what
appeared to be TF from her throat, but none of that this time.

Re dysphagia: on TF per PEG, placed in ___ after lengthy
discussion. No issues with this, as above; no obvious
regurgitation, emesis, aspiration.

Re dementia: Pt is described at baseline by son as being able to
interact some, endorsing when she is in pain. He feels she is 
off
her baseline at present, a little lower energy and sluggish,
thoug on encounter on floor arrival, he thinks she is tired, as
it is 2:00a

Review of past OMR notes summarized as follows: 
Pall care consult on ___ was placed re placement of PEG tube; 
in
this note pt was sitting up and alert but answering questions
without obvious understanding of what was being asked. 

Numerous other admissions and ED visits. Most recent DC summary
was from ___ for CAP and UTI. Treated with cefpodoxime and
azithro.

In ED:
VS: afeb, HR 102 --> 93, 154/98, 97% on RA then on 2L but high
___
Labs: wbc 8, hb 10.8, chem unremarkable; Flu A, B neg
Imaging: read as no acute process though right apex obscured
Received: ___, carbi-levodopa x2, Xanax x1

ROS: Unable to assess ___ advanced dementia
 
Past Medical History:
___ Disease  
HTN 
HLD   
Esophageal dysmotility
Bilateral blindness  
Reactive airway disease 
Bronchitis 
Hypothyroidism 
Recurrent Aspiration s/p PEG placement 
 
Social History:
___
Family History:
Reviewed and none pertinent to this hospitalization
 
Physical Exam:
Admission exam:
===============
VITALS: Afebrile and vital signs significant for within normal
limits; normotensive, no tachy; on RA
GENERAL: Sleeping and rouses to gentle stimulus but only mouths
responses without being able to fully articulate. Frail
appearing, with hunched over posture in bed.
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD. No ___ edema
RESP: Lungs without clear rales in bases though no participation
in exam, which limits effectiveness.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  PEG site is clean and intact
GU: No suprapubic fullness or tenderness to palpation
SKIN: No rashes or ulcerations noted
NEURO: Cannot assess beyond that in 'general' section d/t pt 
lack
of participation
PSYCH: cannot assess d/t advanced dementia
.
.
Discharge exam:
==============
GENERAL: elderly woman with severe kyphoscoliosis laying in bed 
in NAD
EYES: anicteric, EOMI
ENT: MMM
CV: RR, no m/r/g appreciated, no JVD appreciated today
RESP: bilateral crackles to mid-lungs, no wheezing appreciated, 
normal WOB today with no accessory muscle use
GI: soft, not tender to palpation
SKIN: no jaundice
MSK: severe kyphoscoliosis
NEURO: awake, alert, oriented to person and place, responsive to 
questions with appropriate responses, moderately stuttering 
speech; vision is impaired (chronically); moderate presbycusis
PSYCH: calm, cooperative, pleasant
 
Pertinent Results:
Admission labs:
================

___ 05:30PM BLOOD WBC-8.7 RBC-3.47* Hgb-10.8* Hct-34.0 
MCV-98 MCH-31.1 MCHC-31.8* RDW-15.6* RDWSD-55.6* Plt ___
___ 05:30PM BLOOD Neuts-80.8* Lymphs-11.0* Monos-7.7 
Eos-0.1* Baso-0.1 Im ___ AbsNeut-7.02* AbsLymp-0.96* 
AbsMono-0.67 AbsEos-0.01* AbsBaso-0.01
___ 05:30PM BLOOD Glucose-120* UreaN-20 Creat-0.5 Na-139 
K-4.7 Cl-100 HCO3-26 AnGap-13

Micro:
=======
-___ BCx: cancelled
-___ BCx: cancelled
-___ UCx: no growth (final)
-___ Flu A&B PCR: negative
-___ Flu A&B PCR: negative

Imaging:
========
-___ CXR (PA & lateral)
  "FINDINGS: Patient is kyphotic in position.  Patient's chin
overlies the lung apices, partially obscuring the view.  There
are small bilateral pleural effusions.  No definite focal
consolidation is seen.  There is no evidence pneumothorax. 
Cardiac and mediastinal silhouettes are grossly stable.  Chronic
bilateral rib deformities are again re-demonstrated.  Bones are
diffusely osteopenic and there is a chronic appearing deformity
at the left shoulder.  Previously seen compression deformities 
of
the spine were better assessed on prior studies. 
   IMPRESSION:  Patient's chin overlies the lung apices,
partially obscuring the view.  Small bilateral pleural effusions
are seen.  No definite focal consolidation. 

-___ CXR (portable):
IMPRESSION: Study is limited as the patient's head obscures the
lung apex on the left. There are very low lung volumes.  There 
is
extensive osteopenia and several old rib fractures bilateral. 
There is coarsening of the bronchovascular markings bilaterally
without overt pulmonary edema or focal consolidation.  No
definite pneumothoraces are identified.  Overall findings are
unchanged.
 
Brief Hospital Course:
Presented with reported productive cough, dyspnea, and lethargy. 
Disconcertingly, but consistently, her son, ___ would 
often say that she had a symptom, but when the patient was asked 
how she was feeling or asked specifically about that symptom, 
she would often say she was not feeling that way.

She did have a productive cough, however she did not demonstrate 
dyspnea or lethargy during her hospital course. Her CXR was not 
consistent with PNA. She had no other findings to suggest a 
bacterial infection. It was thought this represented a possible 
exacerbation of her chronic "reactive airway disease" which, 
itself, does not seem to have a clear underlying etiology, 
though perhaps may be due to chronic aspiration. She was treated 
with her usual home medications and she did well. No additional 
steroids were given and no antibiotics were given.

Leading up to the time of discharge, the patient's son made 
numerous requests of additional testing in an apparent attempt 
to delay and/or prevent discharge. He made all of these requests 
under the auspices of "advocating for my mother," but many of 
the requests were made repeatedly, and aggressively towards the 
nursing staff, despite clear counseling by the patient's 
physicians that the tests were not necessary and would not be 
performed/repeated. His requests also did not align with the 
patient's clinical condition. On the day prior to discharge and 
the day of discharge, the patient herself noted that she felt 
quite good, was not having shortness of breath, and overall felt 
better than prior to admission. She was not noted to have any 
periods of significant dyspnea that did not respond to her usual 
home nebulizer treatments, and she was not noted to be lethargic 
during her time in the hospital.

We counseled her son that ongoing long-term prednisone use may 
not be advisable in her case.  Specifically, prednisone 
increases her risk of skin injuries (she has some already), 
slowed wound healing, osteoporosis with more fragility fractures 
(she has several already), anxiety (which has been increasingly 
problematic per family), and stomach ulcers (particularly when 
combined with Advil she takes for pain).  We advised that they 
discuss this further with Dr. ___ primary pulmonologist.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 20 mg PO QPM 
2. Fluticasone Propionate 110mcg 2 PUFF IH BID 
3. Hyoscyamine 0.125 mg SL TID:PRN oral secretions 
4. Ipratropium Bromide Neb 1 NEB IH Q6H 
5. Lansoprazole Oral Disintegrating Tab 30 mg PO BID 
6. Levalbuterol Neb 0.63 mg NEB Q6H:PRN dyspnea 
7. Levothyroxine Sodium 25 mcg PO DAILY 
8. Lidocaine 5% Patch 1 PTCH TD QPM 
9. melatonin 3 mg oral QHS:PRN 
10. Milk of Magnesia 30 mL PO Q8H:PRN Constipation - First Line 
11. PredniSONE 10 mg PO DAILY 
12. Carbidopa-Levodopa CR (___) 1 TAB PO ASDIR 
13. carbidopa 25 mg oral BID 
14. formoterol fumarate 20 mcg/2 mL inhalation BID 
15. Ibuprofen 200 mg PO QID:PRN Pain - Moderate 
16. Acetaminophen 500 mg PO QID:PRN pain 
17. Polyethylene Glycol 17 g PO DAILY:PRN Constipation - First 
Line 

 
Discharge Medications:
1.  Milk of Magnesia 30 mL PO DAILY:PRN Constipation - Second 
Line  
2.  Acetaminophen 500 mg PO QID:PRN pain  
3.  Atorvastatin 20 mg PO QPM  
4.  Carbidopa-Levodopa CR (___) 1 TAB PO ASDIR  
5.  carbidopa 25 mg oral BID  
6.  Fluticasone Propionate 110mcg 2 PUFF IH BID  
7.  formoterol fumarate 20 mcg/2 mL inhalation BID 
at ___ and 2100  
8.  Hyoscyamine 0.125 mg SL TID:PRN oral secretions  
9.  Ibuprofen 200 mg PO QID:PRN Pain - Moderate  
10.  Ipratropium Bromide Neb 1 NEB IH Q6H  
11.  Lansoprazole Oral Disintegrating Tab 30 mg PO BID  
12.  Levalbuterol Neb 0.63 mg NEB Q6H:PRN dyspnea  
13.  Levothyroxine Sodium 25 mcg PO DAILY  
14.  Lidocaine 5% Patch 1 PTCH TD QPM  
15.  melatonin 3 mg oral QHS:PRN  
16.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - First 
Line  
17.  PredniSONE 10 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
# Cough
# Chronic steroid use
 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.
 
Discharge Instructions:
Dear ___,

___ were admitted to the hospital for monitoring after ___ 
presented to the emergency department with lethargy and 
productive cough.  ___ had a chest X-ray done which did not show 
evidence of a new pneumonia. Your labs were checked and were not 
concerning.  ___ were treated with your usual home medications, 
including your usual home nebulizer treatments, and ___ 
improved. On the day of discharge ___ were feeling well, with no 
shortness of breath, and said ___ wanted to go home.

It was a pleasure caring for ___ while ___ were here, and we 
wish ___ the best.

Sincerely,
The ___ Medicine Team.
 
Followup Instructions:
___